US07592454B2
To a methylene chloride (300 mL) solution of 6-[(4-methylphenyl)sulfanyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (71 mmol) was triethylamine (142 mmol) in one portion and resulted solution was stirred at rt for 10 minutes. The reaction was cooled to 0° C. in an ice bath then di-tert-butyl dicarbonate (85 mmol) was added, and then reaction was allowed to warm slowly to room temperature and stir for 14 hours. Reaction mixture was poured into water (300 ml) and then layers separated. The aqueous layer was extracted with chloroform (3×100 ml) and the organics collected, washed with brine (150 ml), dried over MgSO4, and concentrated to dryness under reduced pressure to give tert-butyl 6-[(4methylphenyl)sulfanyl]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate (90%).

reactant | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
reactant | 6-[(4-methylphenyl)sulfanyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 71 mmol | CC1=CC=C(C=C1)SC1=CC=CC=2C3=C(NC12)CCNC3 | C18H18N2S
reactant | triethylamine | 142 mmol | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 85 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 300 ml | O | H2O
product | tert-butyl 6-[(4methylphenyl)sulfanyl]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate | 90% | CC1=CC=C(C=C1)SC1=CC=CC=2C3=C(NC12)CCN(C3)C(=O)OC(C)(C)C | C23H26N2O2S
